US04568695
[2-Amino-3-(2-hydroxyethyl)phenyl]phenylmethanone
A suspension of 7.7 g of 2-amino-3-[hydroxy(phenyl)methyl]benzene ethanol in 250 ml of benzene was treated with 14 g of activated Manganese dioxide and refluxed for 5 hours using a Dean-Stark trap. The hot mixture obtained was then filtered through Celite and the filtrate stripped to yield a dark oil. The oily material was placed on a florisil column and eluted with a benzene-acetone mixture. The isolated product was recrystallized from ethanol-pet. ether (30:60) to give the titled compound as yellow needles, m.p. 107°-108° C.

reactant | 2-amino-3-[hydroxy(phenyl)methyl]benzene ethanol | 7.7 g | NC1=C(C=CC=C1C(C1=CC=CC=C1)O)CCO | C15H17NO2
reactant | florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
catalyst | Manganese dioxide | 14 g | [O-2].[O-2].[Mn+4]
product | [2-Amino-3-(2-hydroxyethyl)phenyl]phenylmethanone | NC1=C(C=CC=C1CCO)C(=O)C1=CC=CC=C1 | C15H15NO2
